US05491144
4-Anilino-5-(2,4-dihydroxy-anilino)-phthalimide
To a solution of 100 mg (0.26 mmol) of 4-anilino-5-(2,4-dimethoxy-anilino)-phthalimide in 8 ml of chloroform, a solution of 120 μl (1.24 mmol) boron tribromide is added dropwise at RT. The reaction mixture is stirred for 5 hours at RT, is then quenched with 5 ml of water and the phases are separated. The water phase is extracted three times with ethyl acetate. The organic phases are combined and washed twice with water, dried over magnesium sulfate and concentratedby evaporation. Excluding light, the evaporation residue is chromatographedwith ethylacetate/hexane 2:1 on a silica gel column (precoated with 0.1 g of sodium ascorbate per g silica gel) that is cooled with ice-water (double jacket), the product fractions are combined and concentrated by evaporation. Recrystallization from ethyl acetate/dichloromethane/hexane yields the title compound in the form of yellow crystals, m.p. 155°C. (decomp.), FAB-MS: 362 [M+ +H].

reactant | 4-anilino-5-(2,4-dimethoxy-anilino)-phthalimide | 0.26 mmol, 100 mg | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=C(C=C(C=C1)OC)OC | C22H19N3O4
reactant | boron tribromide | 1.24 mmol, 120 μl | B(Br)(Br)Br | BBr3
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Anilino-5-(2,4-dihydroxy-anilino)-phthalimide | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=C(C=C(C=C1)O)O | C20H15N3O4
